US04518597
8-Bromo-6-[4-(3,4-dichloro-phenylsulfinyl)-butoxy]-4,4-dimethyl-4H-3,1-benzoxazin-2-one
Prepared analogously to Example 4 from 8-bromo-6-hydroxy-4,4-dimethyl-4H-3,1-benzoxazin-2-one and 4-(3,4-dichloro-phenylsulfinyl)-butylbromide.

reactant | 8-bromo-6-hydroxy-4,4-dimethyl-4H-3,1-benzoxazin-2-one | BrC1=CC(=CC=2C(OC(NC21)=O)(C)C)O | C10H10BrNO3
reactant | 4-(3,4-dichloro-phenylsulfinyl)-butylbromide | ClC=1C=C(C=CC1Cl)S(=O)CCCCBr | C10H11BrCl2OS
product | 8-Bromo-6-[4-(3,4-dichloro-phenylsulfinyl)-butoxy]-4,4-dimethyl-4H-3,1-benzoxazin-2-one | BrC1=CC(=CC=2C(OC(NC21)=O)(C)C)OCCCCS(=O)C2=CC(=C(C=C2)Cl)Cl | C20H20BrCl2NO4S
